US07985755B2
5-(4-Naphthalen-1-ylmethyl-piperazin-1-yl)-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 1-(chloromethyl)naphthalene (65.4 mg; 0.37 mmol) to obtain 44.7 mg. (58% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.0 (br s, 1H), 8.95 (br s, 1H), 8.30 (d, J=8.4 Hz, 1H), 7.92 (m, 2H), 7.69 (m, 1H), 7.55 (m, 1H), 7.49 (m, 5H), 7.23 (d, J=8.0 Hz, 1H), 7.19 (d, J=8.0 Hz, 1H), 3.99 (s, 2H), 3.0 (m, 6H), 2.38 (m, 2H). ESIMS+385.7 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 1-(chloromethyl)naphthalene | 0.37 mmol, 65.4 mg | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
product | 5-(4-Naphthalen-1-ylmethyl-piperazin-1-yl)-quinazoline-2,4-diamine | 58% yield | C1(=CC=CC2=CC=CC=C12)CN1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C23H24N6
